US07423036B2
c) tert-butyl [1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl)-propyl]-carbamate
1.35 g (34 mmol, 60%) sodium hydride are added at 0° C. to a solution of 4.87 g (28 mmol) 5-methyl-3-p-tolyl-[1,2,4]triazole in 40 mL of DMPU. The reaction mixture is heated to ambient temperature and then stirred for one hour. 9.35 g (42 mmol) tert-butyl (3-chloro-1,1-dimethyl-propyl)-carbamate and 1.87 g (5 mmol) tetrabutylammonium iodide are added and the mixture is stirred overnight at ambient temperature and then for 2 hours at 80° C. The mixture is combined with water and ethyl acetate, the aqueous phase is separated off and extracted with ethyl acetate. The combined organic phases are washed with water and sodium chloride solution, dried with sodium sulphate and evaporated down. The residue is purified by column chromatography (silica gel; petroleum ether/ethyl acetate=1:1). Oil. Yield: 2.97 g (30%); mass spectroscopy [M+H]+=359.

reactant | sodium hydride | 34 mmol, 1.35 g | [H-].[Na+]
reactant | 5-methyl-3-p-tolyl-[1,2,4]triazole | 28 mmol, 4.87 g | CC1=NC(=NN1)C1=CC=C(C=C1)C | C10H11N3
reactant | tert-butyl (3-chloro-1,1-dimethyl-propyl)-carbamate | 42 mmol, 9.35 g | ClCCC(C)(C)NC(OC(C)(C)C)=O | C10H20ClNO2
reactant | water | O | H2O
solvent | DMPU | 40 mL | CN1CCCN(C1=O)C | C6H12N2O
catalyst | tetrabutylammonium iodide | 5 mmol, 1.87 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [1,1-dimethyl-3-(5-methyl-3-p-tolyl-[1,2,4]triazol-1-yl)-propyl]-carbamate | CC(CCN1N=C(N=C1C)C1=CC=C(C=C1)C)(C)NC(OC(C)(C)C)=O | C20H30N4O2
